US07572820B2
A. 5-[(Phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole
To a solution a −78° C. cooled (dry ice/acetone bath) of 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole (1.1 g, 0.003 mol) in THF (anhydrous, 10 mL) was added n-butyllithium (2.3 mL of a 1.6 M solution in hexanes) dropwise. The mixture was then warmed to −10° C. over 30 min and then cooled to −78° C. and 1-iodopropane (1.5 eq., 0.005 mol, 0.77 g) was added dropwise. The mixture was warmed to rt over 1 h and then stirred at rt for 20 min. Water (10 mL) and EtOAc (100 mL) was added. The organic layer was separated, dried (MgSO4), and concentrated. Purification via semipreparative reverse-phase HPLC provided the desired product: MS (ES) m/z 406 (M+1).

reactant | 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole | 0.003 mol, 1.1 g | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1 | C21H17NO3S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-iodopropane | 0.005 mol, 0.77 g, 1.5 eq. | ICCC | C3H7I
reactant | Water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-[(Phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole | C1(=CC=CC=C1)COC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CCC | C24H23NO3S
